US09120761B2
(f) tert-Butyl 4-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-fluorophenyl)piperidine-1-carboxylate (I61)
To a solution of tert-butyl 4-(3-fluoro-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I60) (0.206 g) in THF (5 mL) was added aqueous 2 M LiOH (0.500 mL, 1.00 mmol) and water (0.5 mL) and the resulting solution was stirred for 16 hours at room temperature. Aqueous LiOH (1.5 M; 0.5 mL) was added and the reaction stirred for a further 20 hours at room temperature. The mixture was then heated to 50° C. and methanol (1 mL) added before stirring for 20 hours. The volatiles were evaporated under reduced pressure and the residue azeotroped with toluene twice before addition of THF (4 mL), solid lithium hydroxide (0.021 g, 0.87 mmol), water (1 mL) and methanol (1 mL). The resulting mixture was stirred at room temperature for 5 hours and then heated to 50° C. for 16 hours. The volatiles were evaporated under reduced pressure and the residue diluted with water. The aqueous solution was extracted with EtOAc (2×20 mL) before acidifying to a pH of 3 with aqueous HCl. The resulting precipitate was collected as a pellet by centrifugation then dissolved in methanol and concentrated under reduced pressure. The residue was azeotroped with toluene then taken up in DMF (6 mL) to which EDCl (0.080 g, 0.42 mmol), HOBT (0.061 g, 0.45 mmol) and DIPEA (0.29 mL, 1.67 mmol) were added. The mixture was stirred at room temperature for 30 minutes under nitrogen before addition of ammonium carbonate (0.129 g, 1.66 mmol). The resulting mixture was stirred at 30° C. for 20 hours before the volatiles were evaporated under reduced pressure. Water (20 mL) was added and the resulting suspension was extracted with EtOAc (3×20 mL). The combined organic extracts were concentrated under reduced pressure and the residue chromatographed on silica gel (0-100% EtOAc/petroleum benzine 40-60° C. then 70-100% EtOAc/petroleum benzine 40-60° C.) to give the title compound (I61) (0.049 g, 24%); 1H NMR (400 MHz, d6-Acetone) δ 8.71 (s, 1H), 8.60 (s, 1H), 7.98 (dd, J=8.4, 8.4 Hz, 1H), 7.29 (m, 1H), 7.17 (m, 5H), 6.66 (s, 1H), 6.22 (s, 1H), 4.21 (m, 1H), 3.63 (s, 2H), 3.16 (m, 4H), 2.09 (m, 2H), 1.87 (m, 3H), 1.59 (qd, J=12.7, 4.4 Hz, 2H), 1.46 (s, 9H); LCMS Method C: rt 6.46 min; m/z 602.1 [M+H]+, 624.1 [M+Na]+, 546.1 [(M-t-Bu)+H]+, 502.1 [(M-Boc)+H]+.

reactant | tert-butyl 4-(3-fluoro-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.206 g | FC=1C=C(C=CC1NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C32H36F4N4O4
reactant | LiOH | 1.00 mmol, 2 M, 0.500 mL | [Li+].[OH-]
reactant | LiOH | 1.5 M, 0.5 mL | [Li+].[OH-]
reactant | lithium hydroxide | 0.87 mmol, 0.021 g | [OH-].[Li+]
reactant | EDCl | 0.42 mmol, 0.080 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.45 mmol, 0.061 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.67 mmol, 0.29 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ammonium carbonate | 1.66 mmol, 0.129 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | tert-Butyl 4-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-fluorophenyl)piperidine-1-carboxylate | 0.049 g, 24% | NC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=C(C=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C)F)C=CC=C1)=O | C31H35F4N5O3
